US09358231B2
B. tert-butyl 5-(bromomethyl)pyrazin-2-ylcarbamate
To a solution tert-butyl 5-methylpyrazin-2-ylcarbamate (500 mg, 2.39 mmol) in CCl4 (8.0 mL) were added NBS(446 mg, 2.51 mmol) and AIBN (117 mg, 0.72 mmol). The reaction mixture was stirred for 4 hours at 80° C. after which, it was partitioned between CH2Cl2 and water. The organic layer was separated and the aqueous layer was extracted with CH2Cl2. The combined organic extracts were washed with brine, dried over MgSO4, celite filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography using (10% Ethyl acetate/Hexane) as a solvent to afford title compound (520 mg, 75% yield). 1H NMR (600 MHz, CDCl3) δ 9.29 (s, 1H), 8.95 (s, 1H), 8.37 (s, 1H), 4.38 (s, 2H), 1.57 (s, 9H). MS m/z: 288 [M+1].

reactant | tert-butyl 5-methylpyrazin-2-ylcarbamate | 2.39 mmol, 500 mg | CC=1N=CC(=NC1)NC(OC(C)(C)C)=O | C10H15N3O2
reactant | NBS | 2.51 mmol, 446 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.72 mmol, 117 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 8.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-butyl 5-(bromomethyl)pyrazin-2-ylcarbamate | 520 mg, 75% yield | BrCC=1N=CC(=NC1)NC(OC(C)(C)C)=O | C10H14BrN3O2
